US04921850
p-methoxybenzyl 7β-[2-(5-tritylamino-1,2,4-thiadiazol-3-yl)-(Z)-2-(2,2,2-trifluoroethyl)oxyiminoacetamido]-3-[(Z)-3-chloro-1-propen-1-yl]3-cephem-4-carboxylate
A mixture solution comprising dimethylformamide (0.247 ml) and tetrahydrofuran (3 ml) was cooled to -10° C., and phosphorus oxychloride (0.297 ml) was added thereto and stirred for 40 minutes with ice-cooling. To the resulting solution was added the tetrahydrofuran solution (4 ml) of 2-(5-tritylamino-1,2,4-thiadiazol-3-yl)-(Z)-2-(2,2,2-trifluoroethyl)oxyiminoacetic acid (1.36 g), followed by stirring for further one hour at the said temperature. The resulting reaction solution was added to a mixture solution comprising p-methoxybenzyl 7β-amino-3-[(Z)-3-chloro-1-propen-1-yl]-3-cephem-4-carboxylate hydrochloride (1.145 g), N-(trimethylsilyl)acetamide (2.09 g) and ethyl acetate (10 ml), with cooling at -20° C., followed by elevating the temperature up to 0° C. with stirring for one hour. After ethyl acetate was added to the reaction solution, this was washed with water and dried with anhydrous sodium sulfate. The solvent was evaporated out and the residue was purified by silicagel column chromatography to obtain the desired product (1.43 g).

reactant | phosphorus oxychloride | 0.297 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(5-tritylamino-1,2,4-thiadiazol-3-yl)-(Z)-2-(2,2,2-trifluoroethyl)oxyiminoacetic acid | 1.36 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC1=NC(=NS1)/C(/C(=O)O)=N/OCC(F)(F)F | C25H19F3N4O3S
reactant | p-methoxybenzyl 7β-amino-3-[(Z)-3-chloro-1-propen-1-yl]-3-cephem-4-carboxylate hydrochloride | 1.145 g | Cl.N[C@H]1[C@@H]2N(C(=C(CS2)\C=C/CCl)C(=O)OCC2=CC=C(C=C2)OC)C1=O
reactant | N-(trimethylsilyl)acetamide | 2.09 g | C[Si](NC(C)=O)(C)C | C5H13NOSi
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 0.247 ml | CN(C=O)C | C3H7NO
product | p-methoxybenzyl 7β-[2-(5-tritylamino-1,2,4-thiadiazol-3-yl)-(Z)-2-(2,2,2-trifluoroethyl)oxyiminoacetamido]-3-[(Z)-3-chloro-1-propen-1-yl]3-cephem-4-carboxylate | 1.43 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC1=NC(=NS1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)\C=C/CCl)C(=O)OCC2=CC=C(C=C2)OC)C1=O)=N/OCC(F)(F)F | C43H36ClF3N6O6S2
